US07202363B2
N-{4-[4-amino-7-(2-formylthien-3-yl)thieno[3,2-c]pyridin-3-yl]-2-methoxyphenyl}-1-methyl-1H-indole-2-carboxamide
N-[4-(4-amino-7-iodothieno[3,2-c]pyridin-3-yl)-2-methoxyphenyl]-1-methyl-1H-indole-2-carboxamide and 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)thiophene-2-carbaldehyde were reacted together according to general procedure A to furnish the title compound. LCMS (Conditions a): MH+=539.0, RT=4.10 minutes; 1H NMR (DMSO-d6, 400 MHz) δ 9.77 (s, 1H), 9.53 (s, 1H), 8.29 (d, J=5.3 Hz, 1H), 7.98 (m, 2H), 7.63 (m, 6H), 7.36 (m, 1H), 7.24 (s, 1H), 7.15 (m, 1H), 5.85 (br, 2H), 4.04 (s, 3H), 3.92 (s, 3H).

reactant | N-[4-(4-amino-7-iodothieno[3,2-c]pyridin-3-yl)-2-methoxyphenyl]-1-methyl-1H-indole-2-carboxamide | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)I | C24H19IN4O2S
reactant | 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)thiophene-2-carbaldehyde | CC1(OB(OC1(C)C)C1=C(SC=C1)C=O)C | C11H15BO3S
product | N-{4-[4-amino-7-(2-formylthien-3-yl)thieno[3,2-c]pyridin-3-yl]-2-methoxyphenyl}-1-methyl-1H-indole-2-carboxamide | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)C2=C(SC=C2)C=O | C29H22N4O3S2
